US08420816B2
4-{(1R)-1-[(1,1-dioxidothiomorpholin-4-yl)carbonyl]-2-methylpropyl}-6-fluoro-4,5-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-3(1H)-one
To an 8 mL scintillation vial equipped for stirring was added (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (15 mg, 0.051 mmol). DMF (0.5 mL), thiomorpholine 1,1-dioxide hydrochloride (8.84 mg, 0.51 mmol), HOBt (11.83 mg, 0.077 mmol), EDC (14.81 mg, 0.077 mmol) and N,N-dimethylpyridin-4-amine (9.44 mg, 0.077 mmol) were added and the solution was stirred at 25° C. for 4 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 20-50%). The fractions were collected and lyophilized to afford the title compound as a white solid (9.8 mg, 46.6%). 1H NMR (400 MHz, CD3OD) δ 0.92 (d, J=6.82 Hz, 3 H) 1.02 (d, J=6.32 Hz, 3 H) 2.60 (dt, J=10.61, 6.57 Hz, 1 H) 2.90-3.03 (m, 1 H) 3.03-3.25 (m, 3 H) 3.86-4.01 (m, 1 H) 4.13 (ddd, J=14.78, 8.59, 2.40 Hz, 1 H) 4.21-4.41 (m, 2 H) 4.92-5.06 (m, 1 H) 5.06-5.18 (m, 1 H) 5.57 (d, J=10.61 Hz, 1 H) 7.89 (s, 1 H) 8.18 (d, J=3.28 Hz, 1 H). [M+H] calc'd for C18H21FN4O4S, 409; found, 409.3.

reactant | (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.051 mmol, 15 mg | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14FN3O3
reactant | thiomorpholine 1,1-dioxide hydrochloride | 0.51 mmol, 8.84 mg | Cl.N1CCS(CC1)(=O)=O
reactant | HOBt | 0.077 mmol, 11.83 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.077 mmol, 14.81 mg
catalyst | N,N-dimethylpyridin-4-amine | 0.077 mmol, 9.44 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4-{(1R)-1-[(1,1-dioxidothiomorpholin-4-yl)carbonyl]-2-methylpropyl}-6-fluoro-4,5-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-3(1H)-one | 9.8 mg, 46.6% | O=S1(CCN(CC1)C(=O)[C@@H](C(C)C)N1CC=2C(=CN=C3C2C(C1=O)=CN3)F)=O | C18H21FN4O4S
